US06596746B1
A. Ethyl-2-[(methylsulfonyl)amino]4-methyl-thiazole-5-carboxylate
A stirred solution of ethyl-2-amino-4-methyl-thiazole-5-carboxylate (558 mg, 3 mmol) in dichloromethane (15 mL) and pyridine (5 mL) was treated with methanesulfonyl chloride (687 mg, 6 mmol) at rt overnight. The solution was diluted with dichloromethane (50 mL) and washed with 2N aq. HCl solution (15 mL, 3×), dried (MgSO4), filtered and concentrated. The crude residue was diluted with ether (25 mL) and the solid was filtered, washed with 1:1 ether:hexane mixture (10 mL, 3×), and dried in vacuo to obtain the title compound (687 mg, 87%) as an off-white solid.

reactant | ethyl-2-amino-4-methyl-thiazole-5-carboxylate | 3 mmol, 558 mg | C(C)OC(=O)C1=C(N=C(S1)N)C | C7H10N2O2S
reactant | methanesulfonyl chloride | 6 mmol, 687 mg | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | Ethyl-2-[(methylsulfonyl)amino]4-methyl-thiazole-5-carboxylate | 687 mg, 87% | C(C)OC(=O)C1=C(N=C(S1)NS(=O)(=O)C)C | C8H12N2O4S2
